US08097628B2
A solution of 3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-ethenylpyridine (707 mg, 2.491 mmol) and TBAF (3.74 ml, 3.74 mmol) in THF (20 ml) was stirred at room temperature overnight. The mixture was concentrated and purified by flash chromatography using Flashmaster II, a 68 g Merck silica gel cartridge, and mixtures of DCM and MeOH as eluent to afford (5-chloro-6-ethenyl-3-pyridinyl)methanol (405 mg, 94%).

reactant | 3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-ethenylpyridine | 2.491 mmol, 707 mg | ClC=1C(=NC=C(C1)CO[Si](C)(C)C(C)(C)C)C=C | C14H22ClNOSi
reactant | TBAF | 3.74 mmol, 3.74 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (5-chloro-6-ethenyl-3-pyridinyl)methanol | 405 mg, 94% | ClC=1C=C(C=NC1C=C)CO | C8H8ClNO
